*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:50:33 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SDFFHQX4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SDFFHQX4 D Q CK SE SI
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET D 3.12744e-16
*|P (D X 0 3.9000 0.8550)
*|I (Mmn11:g Mmn11 g X 0 4.3225 0.4450)
*|I (Mmp11:g Mmp11 g X 0 4.3225 1.1850)
*|S (D:2 4.3225 0.8450)
*|S (D:3 4.1800 0.8450)
C1 Mmp11:g VSS 8.85769e-17
C2 Mmn11:g VSS 4.15082e-17
C3 D:2 VSS 3.60809e-17
C4 D:3 VSS 9.31351e-17
C5 D VSS 5.3443e-17
Rl1 D:2 D:3 57.249886 $W=0.114
Rl2 D:2 Mmn11:g 98.879593 $W=0.039
Rl3 Mmp11:g D:2 50.802673 $W=0.039
Rk4 D:3 D 0.154453 $W=0.1
*
*|NET Q 1.8985e-16
*|P (Q X 0 0.5000 0.8550)
C6 Q VSS 1.8985e-16
*
*|NET CK 2.40889e-16
*|P (CK X 0 0.3000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 0.2175 0.5875)
*|I (Mmp20:g Mmp20 g X 0 0.2175 1.0925)
*|S (CK:1 0.2900 0.7600)
*|S (CK:2 0.2175 0.7600)
C7 Mmp20:g VSS 4.06165e-17
C8 Mmn20:g VSS 3.05327e-17
C9 CK:2 VSS 1.81098e-17
C10 CK:1 VSS 8.40455e-17
C11 CK VSS 6.75849e-17
Rl5 CK:1 CK:2 48.521347 $W=0.094
Rl6 CK:2 Mmn20:g 34.329510 $W=0.039
Rl7 CK:2 Mmp20:g 82.406425 $W=0.039
Rk8 CK CK:1 0.170700 $W=0.1
*
*|NET SE 5.44217e-16
*|P (SE X 0 5.1000 0.6650)
*|I (Mmn14:g Mmn14 g X 0 4.8125 0.4450)
*|I (Mmn10:g Mmn10 g X 0 5.1225 0.4775)
*|I (Mmp12:g Mmp12 g X 0 4.4275 1.1850)
*|I (Mmp10:g Mmp10 g X 0 5.1225 1.0975)
*|S (SE:1 4.5000 0.8700)
*|S (SE:4 4.7750 0.6850)
*|S (SE:6 5.0950 0.6850)
*|S (SE:8 5.0950 0.6850)
C12 Mmp10:g VSS 4.43532e-17
C13 Mmp12:g VSS 7.23839e-17
C14 Mmn10:g VSS 3.393e-17
C15 Mmn14:g VSS 7.08443e-17
C16 SE:1 VSS 1.25455e-16
C17 SE:4 VSS 9.787e-17
C18 SE:6 VSS 3.61983e-17
C19 SE VSS 6.31826e-17
Rl9 Mmn14:g SE:4 73.078979 $W=0.039
Rl10 SE:6 Mmn10:g 39.153313 $W=0.039
Rl11 SE:1 Mmp12:g 82.718864 $W=0.039
Rl12 Mmp10:g SE:6 104.537926 $W=0.039
Rk13 SE:4 SE:1 0.324528 $W=0.08
Rk14 SE SE:8 0.003095 $W=0.11
Rk15 SE:6 SE:8 45.000000 $W=1
Rk16 SE:8 SE:4 0.233453 $W=0.08
*
*|NET SI 2.99281e-16
*|P (SI X 0 4.9000 0.8550)
*|I (Mmn13:g Mmn13 g X 0 4.9175 0.4450)
*|I (Mmp13:g Mmp13 g X 0 4.8425 1.1850)
*|S (SI:2 4.8800 0.8450)
*|S (SI:4 4.8800 0.8450)
C20 Mmp13:g VSS 5.41372e-17
C21 Mmn13:g VSS 8.55479e-17
C22 SI:2 VSS 5.79901e-17
C23 SI VSS 1.01606e-16
Rl17 Mmn13:g SI:2 92.307693 $W=0.039
Rl18 SI:2 Mmp13:g 43.681320 $W=0.039
Rk19 SI:4 SI 0.007054 $W=0.183
Rk20 SI:2 SI:4 45.000000 $W=0.183
*
*|NET CKb 1.10288e-15
*|I (Mmn20:d Mmn20 d X 0 0.1250 0.5875)
*|I (Mmn51:g Mmn51 g X 0 2.0475 0.5025)
*|I (Mmn25:g Mmn25 g X 0 3.4675 0.5025)
*|I (Mmn21:g Mmn21 g X 0 4.0475 0.5025)
*|I (Mmp20:d Mmp20 d X 0 0.1250 1.0925)
*|I (Mmp40:g Mmp40 g X 0 2.2175 1.1400)
*|I (Mmp36:g Mmp36 g X 0 3.2325 1.1400)
*|I (Mmp21:g Mmp21 g X 0 4.1175 1.2725)
*|S (CKb:1 2.4750 0.8600)
*|S (CKb:2 2.2175 0.8875)
*|S (CKb:6 4.0475 0.7025)
*|S (CKb:7 3.4675 0.7025)
*|S (CKb:9 3.1950 1.3950)
*|S (CKb:12 2.4750 1.2650)
*|S (CKb:14 0.1150 1.1400)
C24 Mmp21:g VSS 6.58779e-17
C25 Mmp36:g VSS 5.80856e-17
C26 Mmp40:g VSS 2.72877e-17
C27 Mmp20:d VSS 2.25422e-16
C28 Mmn21:g VSS 2.55803e-17
C29 Mmn25:g VSS 2.53307e-17
C30 Mmn51:g VSS 5.19528e-17
C31 Mmn20:d VSS 4.30079e-17
C32 CKb:12 VSS 2.35304e-16
C33 CKb:7 VSS 5.47363e-17
C34 CKb:6 VSS 5.29091e-17
C35 CKb:2 VSS 5.62696e-17
C36 CKb:1 VSS 7.42657e-17
C37 CKb:9 VSS 1.06853e-16
Rl21 CKb:1 CKb:2 129.540695 $W=0.039
Rl22 CKb:6 CKb:7 214.299652 $W=0.039
Rl23 CKb:2 Mmn51:g 145.697388 $W=0.039
Rl24 CKb:7 Mmn25:g 30.450726 $W=0.039
Rl25 CKb:6 Mmn21:g 47.310455 $W=0.039
Rl26 CKb:2 Mmp40:g 30.450726 $W=0.039
Rl27 Mmp36:g CKb:9 69.232826 $W=0.039
Rl28 CKb:7 Mmp36:g 170.697388 $W=0.039
Rl29 Mmp21:g CKb:6 185.337646 $W=0.039
Rk30 CKb:12 CKb:9 0.538700 $W=0.09
Rk31 CKb:1 CKb:12 0.298909 $W=0.09
Rk32 CKb:12 CKb:14 1.774089 $W=0.06
Rk33 CKb:14 Mmn20:d 75.392036 $W=0.09
Rk34 Mmp20:d CKb:14 62.000000 $W=0.06
*
*|NET qbint 6.58543e-16
*|I (Mmn55@1:g Mmn55@1 g X 0 0.4525 0.5300)
*|I (Mmn45@1:d Mmn45@1 d X 0 1.4750 0.5025)
*|I (Mmn50:g Mmn50 g X 0 1.8425 0.5025)
*|I (Mmp45:d Mmp45 d X 0 1.4750 1.1400)
*|I (Mmp50:g Mmp50 g X 0 1.8425 1.1400)
*|S (qbint:15 1.8425 0.7050)
*|S (qbint:16 1.7200 0.7050)
*|S (qbint:19 1.3900 0.6750)
*|S (qbint:20 1.4750 0.6750)
C38 Mmp50:g VSS 6.36695e-17
C39 Mmp45:d VSS 4.8367e-17
C40 Mmn50:g VSS 3.00496e-17
C41 Mmn45@1:d VSS 2.43117e-17
C42 Mmn55@1:g VSS 3.50984e-16
C43 qbint:20 VSS 1.44032e-17
C44 qbint:19 VSS 2.31994e-17
C45 qbint:15 VSS 2.51358e-17
C46 qbint:16 VSS 7.84231e-17
Rl35 qbint:15 qbint:16 56.495285 $W=0.094
Rl36 qbint:15 Mmn50:g 34.329510 $W=0.039
Rl37 Mmp50:g qbint:15 103.560272 $W=0.039
Rk38 qbint:20 qbint:16 0.185194 $W=0.08
Rk39 qbint:20 qbint:19 0.077972 $W=0.1
Rk40 qbint:19 Mmn55@1:g 45.209587 $W=0.08
Rk41 qbint:20 Mmn45@1:d 75.070839 $W=0.08
Rk42 qbint:19 Mmp45:d 62.302650 $W=0.09
*
*|NET n30 4.34455e-16
*|I (Mmn45@1:g Mmn45@1 g X 0 1.3725 0.5025)
*|I (Mmn51:d Mmn51 d X 0 2.1900 0.5025)
*|I (Mmp51:d Mmp51 d X 0 2.1150 1.1400)
*|S (n30:8 1.8800 0.8950)
C47 Mmp51:d VSS 5.64274e-17
C48 Mmn51:d VSS 6.00751e-17
C49 Mmn45@1:g VSS 2.36258e-16
C50 n30:8 VSS 8.16954e-17
Rk43 n30:8 Mmn45@1:g 45.211693 $W=0.09
Rk44 n30:8 Mmn51:d 75.449257 $W=0.09
Rk45 n30:8 Mmp51:d 62.303802 $W=0.09
*
*|NET net391 5.33374e-18
*|I (Mmn50:d Mmn50 d X 0 1.9450 0.5025)
*|I (Mmn51:s Mmn51 s X 0 1.9450 0.5025)
C51 Mmn50:d VSS 5.33374e-18
Rmw46 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET mout 3.83995e-16
*|I (Mmn40:d Mmn40 d X 0 2.5550 0.5025)
*|I (Mmn35:g Mmn35 g X 0 3.0425 0.5025)
*|I (Mmp40:s Mmp40 s X 0 2.4975 1.1400)
*|I (Mmp35:g Mmp35 g X 0 3.0425 1.1400)
*|S (mout:2 3.0425 0.7150)
*|S (mout:3 2.9850 0.7150)
*|S (mout:5 2.6350 0.7150)
C52 Mmp35:g VSS 6.83587e-17
C53 Mmp40:s VSS 6.30858e-17
C54 Mmn35:g VSS 4.38937e-17
C55 Mmn40:d VSS 4.87515e-17
C56 mout:5 VSS 5.60969e-17
C57 mout:2 VSS 3.66725e-17
C58 mout:3 VSS 6.71361e-17
Rl47 mout:2 mout:3 46.230148 $W=0.114
Rl48 mout:2 Mmn35:g 37.341133 $W=0.039
Rl49 Mmp35:g mout:2 98.879593 $W=0.039
Rk50 mout:3 mout:5 0.233263 $W=0.09
Rk51 mout:5 Mmn40:d 75.199371 $W=0.09
Rk52 mout:5 Mmp40:s 62.259922 $W=0.09
*
*|NET CKbb 1.00894e-15
*|I (Mmn40:g Mmn40 g X 0 2.3325 0.5025)
*|I (Mmn36:g Mmn36 g X 0 3.2025 0.5025)
*|I (Mmn21:d Mmn21 d X 0 3.9550 0.5025)
*|I (Mmp51:g Mmp51 g X 0 2.0125 1.1400)
*|I (Mmp25:g Mmp25 g X 0 3.4575 1.1400)
*|I (Mmp21:d Mmp21 d X 0 4.0250 1.2725)
*|S (CKbb:2 2.0400 0.8450)
*|S (CKbb:4 2.3050 0.7250)
*|S (CKbb:6 3.1750 0.7150)
*|S (CKbb:8 3.4950 0.8700)
*|S (CKbb:10 3.5550 0.3850)
*|S (CKbb:11 3.1750 0.3850)
C59 Mmp21:d VSS 8.41826e-17
C60 Mmp25:g VSS 3.97048e-17
C61 Mmp51:g VSS 4.81422e-17
C62 Mmn21:d VSS 5.67026e-17
C63 Mmn36:g VSS 4.39582e-17
C64 Mmn40:g VSS 3.0101e-17
C65 CKbb:11 VSS 1.10466e-16
C66 CKbb:10 VSS 7.74418e-17
C67 CKbb:2 VSS 1.06729e-16
C68 CKbb:4 VSS 1.38711e-16
C69 CKbb:6 VSS 9.33216e-17
C70 CKbb:8 VSS 1.79483e-16
Rl53 Mmn40:g CKbb:4 78.384079 $W=0.039
Rl54 Mmn36:g CKbb:6 74.537926 $W=0.039
Rl55 Mmp51:g CKbb:2 86.076393 $W=0.039
Rl56 Mmp25:g CKbb:8 75.002060 $W=0.039
Rk57 CKbb:4 CKbb:2 0.254859 $W=0.09
Rk58 CKbb:8 CKbb:10 0.371524 $W=0.08
Rk59 CKbb:11 CKbb:6 0.221265 $W=0.08
Rk60 CKbb:11 CKbb:4 0.817066 $W=0.09
Rk61 CKbb:10 CKbb:11 0.282851 $W=0.09
Rk62 CKbb:10 Mmn21:d 75.353279 $W=0.08
Rk63 Mmp21:d CKbb:8 62.660847 $W=0.08
*
*|NET n20 3.76507e-16
*|I (Mmn30:g Mmn30 g X 0 2.7775 0.5025)
*|I (Mmn36:d Mmn36 d X 0 3.3350 0.5025)
*|I (Mmp30:g Mmp30 g X 0 2.7775 1.1400)
*|I (Mmp36:d Mmp36 d X 0 3.3450 1.1400)
*|S (n20:2 2.8250 0.8750)
*|S (n20:5 3.3350 0.9050)
C71 Mmp36:d VSS 5.86714e-17
C72 Mmp30:g VSS 3.7159e-17
C73 Mmn36:d VSS 6.65326e-17
C74 Mmn30:g VSS 4.3638e-17
C75 n20:5 VSS 6.58656e-17
C76 n20:2 VSS 1.0464e-16
Rl64 n20:2 Mmn30:g 87.636475 $W=0.039
Rl65 Mmp30:g n20:2 26.098015 $W=0.039
Rk66 n20:5 n20:2 45.336857 $W=0.09
Rk67 n20:5 Mmn36:d 75.285973 $W=0.08
Rk68 Mmp36:d n20:5 31.170958 $W=0.08
*
*|NET net378 1.08109e-18
*|I (Mmn35:d Mmn35 d X 0 3.1225 0.5025)
*|I (Mmn36:s Mmn36 s X 0 3.1225 0.5025)
C77 Mmn35:d VSS 1.08109e-18
Rmw69 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET Db 4.77135e-16
*|I (Mmn25:s Mmn25 s X 0 3.6475 0.5025)
*|I (Mmn12:d Mmn12 d X 0 4.7100 0.4450)
*|I (Mmp25:d Mmp25 d X 0 3.6625 1.0525)
*|I (Mmp12:d Mmp12 d X 0 4.5400 1.1850)
*|S (Db:2 4.3400 1.0600)
*|S (Db:4 4.5300 1.0900)
*|S (Db:6 3.6850 1.0600)
C78 Mmp12:d VSS 6.65857e-17
C79 Mmp25:d VSS 1.25765e-16
C80 Mmn12:d VSS 8.4055e-17
C81 Mmn25:s VSS 7.33357e-17
C82 Db:2 VSS 1.27394e-16
Rk70 Db:2 Db:4 0.147754 $W=0.09
Rk71 Db:2 Db:6 0.520231 $W=0.08
Rk72 Db:6 Mmn25:s 75.371552 $W=0.08
Rk73 Mmn12:d Db:2 75.656586 $W=0.09
Rk74 Mmp25:d Db:6 62.000000 $W=0.08
Rk75 Mmp12:d Db:4 31.039173 $W=0.18
*
*|NET net399 6.57884e-18
*|I (Mmn11:d Mmn11 d X 0 4.4650 0.4450)
*|I (Mmn12:s Mmn12 s X 0 4.4650 0.4450)
C83 Mmn11:d VSS 6.57884e-18
Rmw76 Mmn12:s Mmn11:d 0.001000 $W=1
*
*|NET SEb 3.90374e-16
*|I (Mmn12:g Mmn12 g X 0 4.6075 0.4450)
*|I (Mmn10:d Mmn10 d X 0 5.2500 0.4775)
*|I (Mmp14:g Mmp14 g X 0 4.6525 1.1850)
*|I (Mmp10:d Mmp10 d X 0 5.2150 1.0975)
*|S (SEb:2 4.6325 0.8900)
*|S (SEb:4 4.6900 0.8900)
*|S (SEb:7 5.2250 1.1450)
C84 Mmp10:d VSS 9.29373e-17
C85 Mmp14:g VSS 4.35599e-17
C86 Mmn10:d VSS 4.88877e-17
C87 Mmn12:g VSS 5.96498e-17
C88 SEb:2 VSS 5.68908e-17
C89 SEb:4 VSS 8.8449e-17
Rl77 SEb:2 SEb:4 46.266560 $W=0.094
Rl78 SEb:2 Mmn12:g 147.664215 $W=0.039
Rl79 Mmp14:g SEb:2 67.475677 $W=0.039
Rk80 SEb:7 SEb:4 0.532991 $W=0.08
Rk81 Mmn10:d SEb:7 75.463081 $W=0.09
Rk82 Mmp10:d SEb:7 62.000000 $W=0.09
*
*|NET net411 0
*|I (Mmn14:s Mmn14 s X 0 4.8650 0.4450)
*|I (Mmn13:d Mmn13 d X 0 4.8650 0.4450)
Rmw83 Mmn13:d Mmn14:s 0.001000 $W=1
*
*|NET net334 5.48591e-18
*|I (Mmp50:d Mmp50 d X 0 1.9275 1.1400)
*|I (Mmp51:s Mmp51 s X 0 1.9275 1.1400)
C90 Mmp50:d VSS 5.48591e-18
Rmw84 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET net319 2.64832e-18
*|I (Mmp35:d Mmp35 d X 0 3.1375 1.1400)
*|I (Mmp36:s Mmp36 s X 0 3.1375 1.1400)
C91 Mmp35:d VSS 2.64832e-18
Rmw85 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET net342 1.75166e-18
*|I (Mmp11:d Mmp11 d X 0 4.3750 1.1850)
*|I (Mmp12:s Mmp12 s X 0 4.3750 1.1850)
C92 Mmp11:d VSS 1.75166e-18
Rmw86 Mmp12:s Mmp11:d 0.001000 $W=1
*
*|NET net350 4.24869e-18
*|I (Mmp14:s Mmp14 s X 0 4.7475 1.1850)
*|I (Mmp13:d Mmp13 d X 0 4.7475 1.1850)
C93 Mmp14:s VSS 4.24869e-18
Rmw87 Mmp13:d Mmp14:s 0.001000 $W=1
*
*Instance Section
*
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04365P	PD=0.57U	PS=0.9U
+ fw=1.45e-07 sa=1.4e-07 sb=1.63586e-06 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0451P	PD=0.73U	PS=0.85U
+ fw=2.05e-07 sa=1.63317e-06 sb=1.94e-06 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0492P	AS=0.0328P	PD=0.89U	PS=0.73U
+ fw=2.05e-07 sa=1.83817e-06 sb=1.735e-06 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn40	Mmn40:d	Mmn40:g	Mmn51:d	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.082P	AS=0.0492P	PD=1.21U	PS=0.89U
+ fw=2.05e-07 sa=2e-06 sb=1.45e-06 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn30	Mmn40:d	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.082P	AS=0.0733P	PD=1.21U	PS=1.32U
+ fw=2.05e-07 sa=2e-06 sb=1.005e-06 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.02358P	AS=0.0733P	PD=0.64U	PS=1.32U
+ fw=2.05e-07 sa=2e-06 sb=7.4e-07 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0451P	AS=0.02358P	PD=0.85U	PS=0.64U
+ fw=2.05e-07 sa=2e-06 sb=5.8e-07 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn25	Mmn36:d	Mmn25:g	Mmn25:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0451P	AS=0.06458P	PD=0.85U	PS=1.04U
+ fw=2.05e-07 sa=2e-06 sb=3.15e-07 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04485P	PD=0.57U	PS=0.98U
+ fw=1.45e-07 sa=1.4e-07 sb=1.23069e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn11	Mmn11:d	Mmn11:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0624P	AS=0.04485P	PD=1U	PS=0.98U
+ fw=2.6e-07 sa=2.75673e-07 sb=8.70673e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn12	Mmn12:d	Mmn12:g	Mmn12:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0624P	PD=0.84U	PS=1U
+ fw=2.6e-07 sa=5.60673e-07 sb=5.85673e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn14	Mmn12:d	Mmn14:g	Mmn14:s	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.0156P	PD=0.84U	PS=0.64U
+ fw=2.6e-07 sa=7.65673e-07 sb=3.80673e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn13	Mmn13:d	Mmn13:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0156P	AS=0.0347P	PD=0.64U	PS=0.84U
+ fw=2.6e-07 sa=8.70673e-07 sb=2.75673e-07 sca=10.79 scb=0.0100512 scc=0.000418069
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03045P	AS=0.0347P	PD=0.71U	PS=0.84U
+ fw=1.45e-07 sa=1.16069e-06 sb=2.1e-07 sca=11.7118 scb=0.0116498 scc=0.000458536
Mmn55@1	Q	Mmn55@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0481P	AS=0.047P	PD=0.89U	PS=0.9U	M=4
+ fw=2.6e-07 sa=2.71058e-07 sb=1.74721e-06 sca=17.5885 scb=0.0172826 scc=0.00162584
Mmn45@1	Mmn45@1:d	Mmn45@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.04273P	PD=0.73U	PS=0.855U	M=2
+ fw=2.05e-07 sa=1.16317e-06 sb=2e-06 sca=13.8179 scb=0.0141903 scc=0.000851218
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0752P	PD=0.71U	PS=1.77U
+ fw=2.15e-07 sa=1.4e-07 sb=2e-06 sca=31.8563 scb=0.0365862 scc=0.0028968
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.03875P	AS=0.0976P	PD=0.87U	PS=1.55U
+ fw=3.1e-07 sa=1.68685e-06 sb=1.78685e-06 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.03875P	PD=0.94U	PS=0.87U
+ fw=3.1e-07 sa=1.85685e-06 sb=1.61685e-06 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp40	Mmp51:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.15965P	PD=0.94U	PS=1.65U
+ fw=3.1e-07 sa=1.96476e-06 sb=1.41185e-06 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp30	Mmp40:s	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.15965P	AS=0.0916P	PD=1.65U	PS=1.45U
+ fw=3.1e-07 sa=2e-06 sb=8.51855e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.04495P	AS=0.0916P	PD=0.91U	PS=1.45U
+ fw=3.1e-07 sa=2e-06 sb=5.86855e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0558P	AS=0.04495P	PD=0.98U	PS=0.91U
+ fw=3.1e-07 sa=2e-06 sb=3.96855e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp25	Mmp25:d	Mmp25:g	Mmp36:d	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.05328P	AS=0.0558P	PD=1.15U	PS=0.98U
+ fw=3.1e-07 sa=2e-06 sb=1.71855e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0519P	PD=0.71U	PS=1.1U
+ fw=2.15e-07 sa=1.4e-07 sb=9.17093e-07 sca=10.4315 scb=0.0078915 scc=0.00010471
Mmp11	Mmp11:d	Mmp11:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0234P	AS=0.0519P	PD=0.9U	PS=1.1U
+ fw=3.9e-07 sa=2.35064e-07 sb=8.14359e-07 sca=15.0636 scb=0.0136086 scc=0.000948136
Mmp12	Mmp12:d	Mmp12:g	Mmp12:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0702P	AS=0.0234P	PD=1.14U	PS=0.9U
+ fw=3.9e-07 sa=3.40064e-07 sb=7.09359e-07 sca=15.0636 scb=0.0136086 scc=0.000948136
Mmp14	Mmp12:d	Mmp14:g	Mmp14:s	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0702P	AS=0.05655P	PD=1.14U	PS=1.07U
+ fw=3.9e-07 sa=5.65064e-07 sb=4.84359e-07 sca=15.6414 scb=0.0138242 scc=0.000948215
Mmp13	Mmp13:d	Mmp13:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.05655P	AS=0.07503P	PD=1.07U	PS=1.25U
+ fw=3.9e-07 sa=7.55064e-07 sb=2.94359e-07 sca=16.7327 scb=0.0148635 scc=0.000950884
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.07503P	PD=0.71U	PS=1.25U
+ fw=2.15e-07 sa=9.45581e-07 sb=1.4e-07 sca=26.9589 scb=0.0303196 scc=0.00206685
Mmp55@1	Q	Mmn55@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.097P	PD=1.1U	PS=1.605U	M=4
+ fw=3.9e-07 sa=2.40577e-07 sb=1.76308e-06 sca=18.6093 scb=0.0174808 scc=0.00104939
Mmp45	Mmp45:d	Mmn45@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0496P	AS=0.0996P	PD=0.94U	PS=1.55U	M=2
+ fw=3.1e-07 sa=1.21685e-06 sb=2e-06 sca=16.8851 scb=0.0157945 scc=0.0012748
.ENDS
.END
